Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
2 weeks of ascending bilateral parasthesias
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
The patient is a ___ year old lady who presents with ascending 
parasthesias. She reports that she has been in her usual state 
of health until last ___. The timeline is as follows:

- ___: had flu shot
- ___: woke in the morning with pins and needles (more severe 
sensation) that prior in the bottom of her feet
- ___: sensation spread to her calves bilaterally
- ___: pin and needles spread to her thighs and was waking her 
up in the night. she went to PCP who prescribed ___
- ___: pins and needles spread to her finger tips and then 
hands
- ___: woke up and the pins and needles as well as more 
numbness sensation was in her entire ___ a more needles 
sensation in her neck
- ___: legs felt weak and fatigued after going up 4 flights of 
stairs to extent that she had to sit down on her kids floor (had 
felt like she ran a marathon which she has done previously). she 
was able to walk her child to school (15 minutes) and back. 
Given her new fatigued feeling and weakness going up the stairs 
she decided to come into the ED. She also had some tingling on 
tongue intermittently today.

Through this time she also reports some arthralgias and 
myalgias, primarily in lower extremities. She had no rash, 
fevers or chills. She had some loose stool last week and then a 
full sensation in her abdomen more recently. No urinary 
symptoms. She denies back pain but does have a pulling sensation 
on her right back. She has had intermittent headaches after the 
birth of her ___ child a year ago which are usually left 
temporal, throbbing without migrainous features and not clearly 
better with lying or standing. These had essentially resolved 
but did come back last week when she started getting myalgias. 
Her youngest child had roseola 2 weeks ago; otherwise no sick 
contacts. She denies URI symptoms. She denies falls or trauma, 
car accidents. She does see chiropractor for muscle work but NO 
adjustments. 

Of note, she does report prior bilateral tingling which was mild 
in her feet after flu shot in the past that resolved within a 
few days. She also reports an episode of parasthesias in feet bl 
~ ___ years ago w/u at ___ with reported normal MRI, EMG/NCS - 
she was told perhaps anxiety. 

ROS
positive for: arthralgias, myalgias, had loose stools last week, 
now feeling of fullness in abdomen but no constipation 
negative for: back pain, fevers, chills, rash, constipation, 
urinary frequency or urgency, saddle anesthesia, gait 
instability, focal weakness, double vision or blurred vision
 
Past Medical History:
Parasthesias in the lower extremities every year after the flu 
shot ___ years ago, had workup at ___ with reported normal MRI, 
EMG/NCS)
 
Social History:
___
Family History:
Dad with CABG in ___

 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION
===========================

Vitals: T 99.2F, HR 120, RR 20, BP 143/71, MAP: 95.0, O2 sat 98% 
on room air

General: Awake, cooperative, tearful at times
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: breathing comfortably on RA
Cardiac: RRR, 
Abdomen: soft, non-tender (she feels slightly distended) 
Extremities: No ___ edema, skin is a bit clammy, cool
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, able to relate chronological linear 
history, attentive to exam, language fluent without dysarthria, 
following complex commands. No apparent apraxia or neglect. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 5 to 3mm and brisk. EOMI without 
nystagmus.  VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally, no augmented pronator drift.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
 L  5    5      5   5    5    5  5    5    5        5     5      
  5      5   
 R  5    5      5   5    5    5  5    5    5       5      5      
  5     ___xt/flexion

-Sensory: No deficits to light touch. PP is patchy - there does 
seem to be decreased PP ~70% on upper outer arms bilterally, dec 
PP 70% on outer things bilaterally, decreased pp ~40% below 
knees to the top of the feet where it becomes ~20% bilaterally, 
patchy complete loss on soles of feet. Prop intact at large toes 
bilaterally. Vibration ~8 secs at toes bilaterally, 12 sec at 
ankles. 

-DTRs:
   Bi Tri ___ Pat Ach
 L  ___    3   3 beats clonus
 R  3  3    ___ beats clonus
slight pec jerk bl
clear ___ bl
Plantar response was mute bilaterally

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Can heel and 
toe walk. Sway with Romberg but doesn't side step.

DISCHARGE PHYSICAL EXAMINATION
============================

Vitals: 

General: Well-appearing and cooperative
HEENT: NC/AT, no scleral icterus noted
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Breathing comfortably on RA
Cardiac: RRR, tachycardic
Abdomen: Soft, non-tender abdomen
Extremities: No ___ edema 
Skin: No rashes or lesions noted.

Neurologic:

-Mental Status: Alert and oriented. Able to relate chronological 
linear history. Language fluent without dysarthria. No evidence 
of apraxia or neglect. 

-Cranial Nerves:
 II, III, IV, VI:  Pupils equal, round and briskly reactive. 
EOMI without nystagmus.  VFF to confrontation. 
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: Not assessed.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. Strength full throughout all extremities:
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___ 
 L  5    5      5   5    5    5  5    5    5        5     5      
  5      5   
 R  5    5      5   5    5    5  5    5    5       5      5      
  5     5   

-Sensory: No deficits to light touch. 50% decreased sensation of 
cold in the lower extremities as compared to upper extremities. 
Sensation to pinprick intact in the face, chest, and proximal 
limbs; decreased pinprick sensation in the dorsal hands and 
significantly decreased pinprick sensation on the lateral 
aspects of both feet. Decreased vibration sense in the ankles as 
compared to the upper extremities.

-DTRs: brisk reflexes throughout, as follows:
   Bi Tri ___ Pat Ach
 L  3   3      3      3    3 
 R  3   3      3      3    3 
No plantar response bilaterally. Jaw jerk was positive. 

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to stand on heels and toes. Able to squat down with 
good stability. 

 
Pertinent Results:
___ 11:00AM BLOOD WBC-8.0 RBC-4.88 Hgb-15.4 Hct-46.0* 
MCV-94 MCH-31.6 MCHC-33.5 RDW-11.5 RDWSD-39.8 Plt ___
___ 11:00AM BLOOD Neuts-69.2 ___ Monos-4.6* 
Eos-0.9* Baso-0.4 Im ___ AbsNeut-5.53 AbsLymp-1.96 
AbsMono-0.37 AbsEos-0.07 AbsBaso-0.03
___ 06:15AM BLOOD Plt ___
___ 06:15AM BLOOD ___ PTT-27.3 ___
___ 06:15AM BLOOD Glucose-93 UreaN-9 Creat-0.9 Na-142 K-5.0 
Cl-104 HCO3-28 AnGap-10
___ 11:00AM BLOOD ALT-19 AST-21 CK(CPK)-136 AlkPhos-46 
TotBili-0.5
___ 11:00AM BLOOD cTropnT-<0.01
___ 02:10PM BLOOD VitB12-572
___ 11:00AM BLOOD TSH-1.5
___ 11:00AM BLOOD CRP-0.3
___ 02:10PM BLOOD RheuFac-<10 ___
___ 02:10PM BLOOD Lyme Ab-NEG
___ 02:10PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
 
Brief Hospital Course:
Mrs. ___ is a ___ year old lady who presents with
ascending paresthesias. She reported that on ___ she had a flu 
shot. The next day, she woke with pins and needles in her feet 
that spread to her thighs over the next 3 days. The pins and 
needles then spread to her fingertips and arms and was 
intermittently affecting her shoulders, chest, and back. She 
reported subjective muscle weakness but denied falls and trauma. 
She denies URI symptoms. Of note, she reports prior episodes of 
pins and needles in her legs that are similar to this episode 
after each seasonal flu vaccine. However, this time, the 
symptoms were significantly more severe and affected the upper 
extremities as well as the lower, and therefore she sought 
emergent care.

Her initial exam was notable for full muscle strength and no 
deficits to light touch. There were patchy defects to pinprick 
in the upper extremities b/l, outer thighs b/l, and more 
prominent pinprick deficits below the knees to the top of the 
feet. Her proprioception and vibration was intact. Her reflexes 
were brisk and symmetric throughout, including ___ and 
pectoral jerk. She was able to tandem walk, hell, and toe.

We were initially concerned about GBS but her presentation would 
be very atypical. We did a MRI of the C-spine and T-spine that 
showed spondylosis but did not show cauda equina enhancement or 
demyelinating lesion. Her exam was improving during the hospital 
course. We considered an LP to assess for albuminocytological 
dissociation but given her history that she has similar 
self-resolving symptoms after every flu vaccine, we felt that 
this would be of low yield. We discussed with the patient that 
she likely has a neuropathy triggered by flu vaccine, and we 
think it will self-resolve over a period of weeks. We also sent 
labs looking for inflammatory markers/autoimmune etiologies of 
her paresthesias which did not reveal a clear etiology, with ___ 
pending.

Transitional issues:
f/u serum ___
 
___ on Admission:
none other than Advil PRN
 
Discharge Medications:
none other than Advil PRN
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
paresthesias

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to ___ because of pins and needles in your 
feet that spread upwards towards your legs, as well as your 
arms, neck, and chest. Of note, you had received a flu shot the 
day prior to your symptoms. 

During your admission, we did a MRI of your spine that did not 
show any findings that would explain your symptoms. Your 
symptoms improved during the hospitalization, though not 
completely resolved. We considered whether you would need a 
spinal tap for further workup, but because of your improving 
symptoms and the history of similar symptoms after each seasonal 
flu vaccine, we felt that it was not necessary. 

Overall, we felt that you had a reaction of your sensory nerves 
to the flu vaccine, which was more severe this year than in 
years past. We anticipate that this will slowly improve. 

We did not make any medication changes. We will call you to 
schedule Neurology follow up. 

Please make a follow up appointment to see your primary care 
doctor in ___ days. If you have any worsening sensory symptoms, 
weakness, fever, difficulty breathing or swallowing, inability 
to eat or drink, or other concerns, please call your primary 
care provider or seek emergent care. 

It was a pleasure taking care of you!
Your ___ Neurology team
 
Followup Instructions:
___